Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / amlodipine / Hibiclens
 
Attending: ___.
 
Chief Complaint:
Dialysis Initiation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ man with past medical history of CAD,
diabetes, hypertension, hyperlipidemia, chronic renal failure
with antecedent creation of a dialysis fistula (___) that is 
now
mature, who presents for dialysis initiation. He has felt
progressively worse over the last few days, with nausea, 
fatigue,
and global weakness. He therefore discussed with his 
nephrologist
referred him for admission to inpatient medicine for dialysis
initiation. He has otherwise been in his usual health and denies
antecedent illness.

He has a L radiocephalic AV fistula created in ___ that was
determined to be mature and ready to use by transplant surgery
last month. 

In the ED:

Initial vital signs were notable for:
T97.4, HR66, 145/68, 18, 99% RA

Exam notable for:

Musc/Extr/Back: Fistula in left wrist nontender to palpation. No
clubbing, cyanosis, or edema. ___.

Labs were notable for: 
H/H 10.2/31.5
INR 1.1
Na 135 --> 136
K 6.2 --> 5.2
BUN 103/Cr 7.9

Studies performed include:
EKG: Sinus rhythm 61. First-degree AV block with PR 209. Right
bundle branch block with QRS duration 150. Normal QT. Compared 
to
prior EKG, the PR interval is now prolonged; appearance of the
right bundle branch block is similar.

Patient was given:
N/A

Consults: Renal- Dialysis

Vitals on transfer: T97.6, 171/72, 63, 18, 98% RA

Upon arrival to the floor, pt endorsed a slight headache that 
has
improved with Tylenol. He endorses having general weakness,
fatigue and decreased appetite. He denies F/C/N/V/abd
pain/cough/SOB. 

 
Past Medical History:
Per OMR:
1. CKD stage 5, with eGFR < 10  
2. Diabetes mellitus type 2  
3. Coronary artery disease status post cardiac catheterization  
 in ___, no history of myocardial infarction or cardiac 
surgery.

 He had no stents placed.  
4. Hypertension diagnosed approximately ___ years ago.  
5. Hyperlipidemia.  
6. History of gout, no recent flares.  
7. History of osteopenia, overall stable per verbal report.  
8. History of prostate cancer status post total radical  
 prostatectomy in ___. No history of radiotherapy or  
 chemotherapy.  
9. History of colon cancer, status post left hemicolectomy in  
 ___ with no need for chemoradiotherapy.  
10. Status post excision of left thigh lipoma in ___.  
11. Status post pantaloon right inguinal hernia repair in ___.  

12. Findings of adenoma on colonoscopy in ___.  
13. Findings of adenomatous polyp of the stomach - completely  
 removed in ___.  
14. Status post total knee replacement on the left in ___  
15. Barrett's esophagitis.  
16. Right thumb surgery in ___. 
 
Social History:
___
Family History:
 Per Renal Consult:  
 Mother- deceased in ___. ___ cancer  
 Father- deceased in his ___. Heart dx, diabetes, dialysis.  
 Brother- healthy  
 
Physical ___:
ADMISSION PHYSICAL EXAM:
VITALS: T97.6, 171/72, 63, 18, 98% RA  
 GENERAL: Alert and interactive. In no acute distress.  
 HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM.  
 NECK: No gross abnormalities.  
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
 LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi 
or rales. No increased work of breathing.  
 ABDOMEN: Soft, non distended, non-tender to deep palpation in 
all four quadrants.  
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  
 SKIN: Warm. Cap refill <2s. No rash.  
 NEUROLOGIC: Normal sensation. Gait is normal. AOx3.  
 ACCESS: Left UE AVF, good thrill/bruit  

DISCHARGE PHYSICAL EXAM:
___ ___ Temp: 98.4 PO BP: 136/72 L Lying HR: 68 RR: 18 O2
sat: 92% O2 delivery: Ra 
GENERAL: Elderly Caucasian male,lying in bed in dialysis unit in
no acute pain or distress 
HEENT: Sclerae anicteric, mucous membranes moist.
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: Lungs clear to auscultation bilaterally.
ABDOMEN: Abdomen is soft, nontender, nondistended.  No rebound
tenderness or guarding.
EXTREMITIES: no cyanosis, clubbing or edema.
NEURO: Moves all 4 extremities with purpose.
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABS:
___ 01:50PM   GLUCOSE-100 NA+-136 K+-5.2* CL--102 TCO2-20*
___ 01:50PM   HGB-10.5* calcHCT-32
___ 01:37PM   GLUCOSE-104* UREA N-103* CREAT-7.9*# 
SODIUM-135 POTASSIUM-6.2* CHLORIDE-100 TOTAL CO2-19* ANION 
GAP-16
___ 01:37PM   estGFR-Using this
___ 01:37PM   CALCIUM-9.2 PHOSPHATE-3.3 MAGNESIUM-1.8
___ 01:37PM   WBC-5.7 RBC-3.15* HGB-10.2* HCT-31.5* 
MCV-100* MCH-32.4* MCHC-32.4 RDW-15.9* RDWSD-57.4*
___ 01:37PM   NEUTS-65.8 ___ MONOS-12.0 EOS-2.1 
BASOS-0.4 IM ___ AbsNeut-3.73 AbsLymp-1.08* AbsMono-0.68 
AbsEos-0.12 AbsBaso-0.02
___ 01:37PM   PLT COUNT-151
___ 01:37PM   ___ PTT-27.8 ___

DISCHARGE LABS:
___ 06:11AM BLOOD WBC-5.5 RBC-3.09* Hgb-10.0* Hct-30.7* 
MCV-99* MCH-32.4* MCHC-32.6 RDW-16.6* RDWSD-59.5* Plt ___
___ 06:11AM BLOOD Glucose-119* UreaN-49* Creat-5.8*# Na-141 
K-4.5 Cl-103 HCO3-23 AnGap-15
___ 06:11AM BLOOD Calcium-9.4 Phos-3.7 Mg-1.6
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with past medical history of HTN, 
T2DM, CAD, CKD stage 5 (diabetic nephropathy) with general 
fatigue/weakness who was sent here by Dr. ___ 
initiation of HDx3 days. 

============= 
ACTIVE ISSUES: 
============= 
# Weakness/Fatigue 
# ESRD/HD: 
Pt with persistent weakness and fatigue, for which he was 
encouraged to present to ___ for dialysis initiation. He 
tolerated his introductory sessions well. A PPD was placed on 
___, and read as negative on ___. He was discharted with a 
dialysis chair at ___. He will be a ___ HD patient and his 
information with will be sent from our HD unit to his new HD 
unit. 

# PPD 
-Read PPD on ___ (48hrs post-placement)

=============== 
CHRONIC ISSUES: 
=============== 
# History of HTN: 
- continued home antihypertensive medications
- his antihypertensive medications were held on the day of 
dialysis 

# Anemia: Hgb near goal. Receives erythropoietin as outpatient. 
Monitored in-house and continued on Epo.

# DM II: On home Januvia.

# Bone/Mineral 
calcium and phos normal. Not on phos binders at present. 

# Seasonal allergies: continued home loratadine but dosed QOD 
per renal clearance

TRANSITIONAL ISSUES:
#CODE: Full Code (confirmed) 
#CONTACT: ___ (wife) ___ 

[ ] MEDICATION CHANGES:
-Added: Nephrocaps
-Changed: loratadine (daily --> QOD), discontinued lasix 40mg 
daily that was on his PAML, since he did not require it while 
inpatient and he is now on HD. 
-Held: Antihypertensives (on dialysis days only)

[ ] NUTRITION CONSULT:
Patient with many questions about renal diet. Please facilitate 
outpatient 
follow-up with nutrition for further counseling about the renal 
diet.

[ ] INITIATION OF DIALYSIS:
- Pt will be a ___ dialysis patient 

[ ] DISCHARGE LABS:
-Discharge Hb:  10

>30 minutes spent on discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 2 mg PO HS 
2. Furosemide 40 mg PO DAILY 
3. HydrALAZINE 25 mg PO Q8H 
4. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
wheezing, dyspnea 
5. Isosorbide Dinitrate ER 30 mg PO DAILY 
6. Magnesium Oxide 500 mg PO BID 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Nitroglycerin SL 0.4 mg SL PRN angina 
9. Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
10. Pantoprazole 40 mg PO Q12H 
11. Senna 8.6 mg PO DAILY:PRN Constipation - First Line 
12. Vitamin E 400 UNIT PO DAILY 
13. Fluticasone Propionate NASAL 1 SPRY NU Frequency is Unknown 
14. SITagliptin 25 mg oral DAILY 
15. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
16. Epoetin ___ ___ U SC ONCE WEEKLY 
17. Pyridoxine 100 mg PO DAILY 
18. Allopurinol ___ mg PO DAILY 
19. Ascorbic Acid ___ mg PO DAILY 
20. Aspirin 81 mg PO DAILY 
21. Atorvastatin 80 mg PO QPM 
22. Calcitriol 0.5 mcg PO TWICE A WEEK 
23. Carvedilol 25 mg PO BID 

 
Discharge Medications:
1.  Loratadine 10 mg PO EVERY OTHER DAY 
RX *loratadine 10 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
3.  Ondansetron ODT ___ mg PO Q8H:PRN Nausea/Vomiting - First 
Line  
4.  Allopurinol ___ mg PO DAILY  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Calcitriol 0.5 mcg PO TWICE A WEEK  
9.  Carvedilol 25 mg PO BID  
10.  Doxazosin 2 mg PO HS  
11.  Epoetin ___ ___ U SC ONCE WEEKLY  
12.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
13.  HydrALAZINE 25 mg PO Q8H  
14.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
wheezing, dyspnea  
15.  Isosorbide Dinitrate ER 30 mg PO DAILY  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Nitroglycerin SL 0.4 mg SL PRN angina  
18.  Pantoprazole 40 mg PO Q12H  
19.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
20.  Pyridoxine 100 mg PO DAILY  
21.  Senna 8.6 mg PO DAILY:PRN Constipation - First Line  
22.  SITagliptin 25 mg oral DAILY  
23.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
End-stage renal disease on hemodialysis

Secondary diagnoses:
History of type 2 diabetes
History of hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___.

WHY WAS I SEEN IN THE HOSPITAL?
-You were seen because you needed to start dialysis.

WHAT HAPPENED WHEN I WAS IN THE HOSPITAL?
-You started dialysis and did not have problems with it.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Please take your medicines as prescribed.
-Please follow up with your doctors as listed below

___ wish you the best,
Your ___ Care Team
 
Followup Instructions:
___